US04774245
E. 3-(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-4,5-dihydro-5-methyl-4-oxo-imidazo(1,5-a)quinoxaline
50 mg of sodium was dissolved in 25 ml of dry ethanol containing 3 g of molecular sieves (4 Å) and 0.5 g of cyclopropylcarboxamide oxime was added to this mixture and thereupon 0.6 g of ethyl 4,5-dihydro-5-methyl-4-oxo-imidazo(1,5-a)quinoxaline-3-carboxylate. The resulting mixture was refluxed for 2 hours, whereafter the molecular sieves were filtered off. The title compound was isolated after evaporation of the solvent in vacuo, followed by addition of icewater and filtration. Yield 0.4 g of title compound. M.p. 224.7-225.6° C.

reactant | sodium | 50 mg | [Na] | Na
reactant | cyclopropylcarboxamide oxime | 0.5 g | C1(CC1)C(N)=NO | C4H8N2O
reactant | ethyl 4,5-dihydro-5-methyl-4-oxo-imidazo(1,5-a)quinoxaline-3-carboxylate | 0.6 g | CN1C(C=2N(C3=CC=CC=C13)C=NC2C(=O)OCC)=O | C14H13N3O3
solvent | ethanol | 25 ml, 3 g | C(C)O | C2H6O
product | 3-(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-4,5-dihydro-5-methyl-4-oxo-imidazo(1,5-a)quinoxaline | C1(CC1)C1=NOC(=N1)C=1N=CN2C1C(N(C1=CC=CC=C21)C)=O | C16H13N5O2
